US08084448B2
D. (4-Iodobutane-1-sulfonylmethyl)-benzene
To a mixture of iodine (1.2 g, 4.5 mmol), imidazole (0.34 g, 4.4 mmol) and Ph3P (1.2 g, 4.4 mmol) in methylene chloride (10 mL) is added 4-phenylmethanesulfonylbutan-1-ol (0.99 g, 4.34 mmol) and the mixture is stirred at RT for 1 h. The mixture is filtered and the filtrate evaporated. The resulting oil is dissolved in EtOAc and washed with saturated sodium thiosulfate and brine. The organic phase is dried over magnesium sulfate and the solvent removed under reduced pressure. The resulting solid is washed with ether and the filtrate is evaporated to give the title compound as a white solid.

reactant | iodine | 4.5 mmol, 1.2 g | II | I2
reactant | imidazole | 4.4 mmol, 0.34 g | N1C=NC=C1 | C3H4N2
reactant | Ph3P | 4.4 mmol, 1.2 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 4-phenylmethanesulfonylbutan-1-ol | 4.34 mmol, 0.99 g | C1(=CC=CC=C1)CS(=O)(=O)CCCCO | C11H16O3S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (4-Iodobutane-1-sulfonylmethyl)-benzene | ICCCCS(=O)(=O)CC1=CC=CC=C1 | C11H15IO2S
